US06242443B1
5-Amino-7-chloro-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide
To a stirred suspension of 7-chloro-3-isopropylamino-5-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide (200 mg; 0.63 mmol) and zink (200 mg; 3.06 mmol) in acetic acid (20 ml) was added 36% hydrochloric acid (0.3 ml). The mixture was stirred for 12 hr. After filtration and concentation in vacuo the crude product was purified by column chromatography eluting with ethyl acetate:ethanol (9:1). Concentration of the appropriate fractions produced 90 mg of the title compound; m.p. >230° C.

reactant | 7-chloro-3-isopropylamino-5-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 0.63 mmol, 200 mg | ClC1=CC2=C(NC(=NS2(=O)=O)NC(C)C)C(=C1)[N+](=O)[O-] | C10H11ClN4O4S
reactant | hydrochloric acid | 0.3 ml | Cl | ClH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5-Amino-7-chloro-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide | 90 mg | NC1=CC(=CC2=C1NC(=NS2(=O)=O)NC(C)C)Cl | C10H13ClN4O2S
